US06017919
3-Hydroxyphenylacetonitrile (834 mg, 6.26 mmol) was dissolved in DMF (10 ml), and to this solution were successively added benzyl bromide (0.82 ml, 6.89 mmol, 1.1 eq) and anhydrous potassium carbonate (1.30 g, 9.40 mmol, 1.5 eq). The mixture was stirred under heating at 90° C. for 1.5 hours. This reaction mixture was cooled to room temperature, and water (20 ml) was added. The mixture was extracted twice with ethyl acetate (40 ml). The organic layers were combined, washed with saturated brine (80 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (hexane/ethyl acetate=1/1) to give (3-benzyloxyphenyl)acetonitrile (1.21 g, 86.8%).

reactant | 3-Hydroxyphenylacetonitrile | 6.26 mmol, 834 mg | OC=1C=C(C=CC1)CC#N | C8H7NO
reactant | benzyl bromide | 6.89 mmol, 0.82 ml, 1.1 eq | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 9.40 mmol, 1.30 g, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (3-benzyloxyphenyl)acetonitrile | 1.21 g, 86.8% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC#N | C15H13NO
